US07897609B2
2-Fluoropyridine-5-boronic acid (0.468 g, 3.32 mmol) was added to 1-(4-amino-7-bromo-2-ethyl-1H-imidazo[4,5-c][1,5]naphthyridin-1-yl)-2-methylpropan-2-ol (1.1 g, 3.0 mmol) and 1-propanol (10 mL). The mixture was degassed and backfilled with nitrogen. Triphenylphosphine (23.8 mg, 0.0900 mmol), aqueous sodium carbonate (4.53 mL of 2 M), and water (2 mL) were added followed by palladium (II) acetate (6.8 mg, 0.030 mmol). The yellow suspension was heated at reflux for two hours. Water (20 mL) was added, and the 1-propanol was removed under reduced pressure. The remaining mixture was extracted with chloroform (2×100 mL). The combined extracts were washed with brine, dried over sodium sulfate, filtered, and concentrated under reduced pressure. The crude product was triturated with acetonitrile and isolated by filtration to provide 0.84 g of 1-[4-amino-2-ethyl-7-(6-fluoropyridin-3-yl)-1H-imidazo[4,5-c][1,5]naphthyridin-1-yl)-2-methylpropan-2-ol as a white powder, mp 250-251° C.

reactant | 2-Fluoropyridine-5-boronic acid | 3.32 mmol, 0.468 g | FC1=NC=C(C=C1)B(O)O | C5H5BFNO2
reactant | 1-(4-amino-7-bromo-2-ethyl-1H-imidazo[4,5-c][1,5]naphthyridin-1-yl)-2-methylpropan-2-ol | 3.0 mmol, 1.1 g | NC1=NC=2C=C(C=NC2C2=C1N=C(N2CC(C)(O)C)CC)Br | C15H18BrN5O
reactant | 1-propanol | 10 mL | C(CC)O | C3H8O
reactant | sodium carbonate | 2 M, 4.53 mL | C([O-])([O-])=O.[Na+].[Na+]
catalyst | palladium (II) acetate | 0.030 mmol, 6.8 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | Triphenylphosphine | 0.0900 mmol, 23.8 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | Water | 20 mL | O | H2O
solvent | water | 2 mL | O | H2O
product | 1-[4-amino-2-ethyl-7-(6-fluoropyridin-3-yl)-1H-imidazo[4,5-c][1,5]naphthyridin-1-yl)-2-methylpropan-2-ol | 0.84 g | NC1=NC=2C=C(C=NC2C2=C1N=C(N2CC(C)(O)C)CC)C=2C=NC(=CC2)F | C20H21FN6O
